US06072073
Reaction of propiophenone with p-tolyltosylate: Pd(OAc)2 (9.0 mg, 0.040 mmol), ligand (27.1 mg, 0.050 mmol), NaOtBu (144 mg, 1.50 mmol) and 4-methylphenyl-p-toluene sulfonate (262 mg, 1.00 mmol) were suspended in 1 mL of dioxane in a screw-capped vial. The vial was sealed with a cap containing a PTFE septum and removed from the dry box. Propiophenone (132 mg, 1.10 mmol) was added to the reaction mixture by syringe. The reaction mixture was stirred at 100° C. and monitored by GC analysis. The crude reaction was diluted with ether and washed with 1N HCl, water and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel (hexane/EtOAc=95/5) to give 135 mg (60%) of 2-(4-Methoxyphenyl)-1-phenyl-1-propanone.

reactant | propiophenone | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | p-tolyltosylate | C1(=C(C=CC=C1)C1(CC=C(S(=O)(=O)[O-])C=C1)C)C
reactant | NaOtBu | 1.50 mmol, 144 mg | CC(C)(C)[O-].[Na+]
reactant | 4-methylphenyl-p-toluene sulfonate | 1.00 mmol, 262 mg | CC1=CC=C(C=C1)C1=C(C=CC(=C1)S(=O)(=O)[O-])C
reactant | Propiophenone | 1.10 mmol, 132 mg | C(CC)(=O)C1=CC=CC=C1 | C9H10O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 0.040 mmol, 9.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(4-Methoxyphenyl)-1-phenyl-1-propanone | 135 mg, 60% | COC1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)C | C16H16O2
